US07781436B2
N-(2-Amino-ethyl)-2-{6-chloro-3-[4-(2,3-dihydro-benzofuran-7-yl)-piperidine-1-carbonyl]-indol-1-yl}-acetamide
Analogous to general procedure I, the coupling of {6-chloro-3-[4-(2,3-dihydro-benzofuran-7-yl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid (prepared herein) with (commercially available) (2-amino-ethyl)-carbamic acid tert-butyl ester gave, after treatment with HCl and neutralisation, the title compound.

reactant | {6-chloro-3-[4-(2,3-dihydro-benzofuran-7-yl)-piperidine-1-carbonyl]-indol-1-yl}-acetic acid | ClC1=CC=C2C(=CN(C2=C1)CC(=O)O)C(=O)N1CCC(CC1)C1=CC=CC=2CCOC21 | C24H23ClN2O4
reactant | (2-amino-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCN)=O | C7H16N2O2
reactant | HCl | Cl | ClH
product | N-(2-Amino-ethyl)-2-{6-chloro-3-[4-(2,3-dihydro-benzofuran-7-yl)-piperidine-1-carbonyl]-indol-1-yl}-acetamide | NCCNC(CN1C=C(C2=CC=C(C=C12)Cl)C(=O)N1CCC(CC1)C1=CC=CC=2CCOC21)=O | C26H29ClN4O3
